US07030107B2
In a similar manner to Example 1, 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(4-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (53.3 mg) was reacted with 4-(morpholine-4-yl)piperidine (20.4 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-7-(4-fluorophenyl)-9-[4-(morpholine-4-yl)piperidine-1-yl]-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (26.2 mg, 39%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(4-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 53.3 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=C(C=C3)F)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H16ClF7N2O2
reactant | 4-(morpholine-4-yl)piperidine | 20.4 mg | N1(CCOCC1)C1CCNCC1 | C9H18N2O
product | 5-[3,5-bis(trifluoromethyl)benzyl]-7-(4-fluorophenyl)-9-[4-(morpholine-4-yl)piperidine-1-yl]-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 26.2 mg, 39% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=C(C=C3)F)N3CCC(CC3)N3CCOCC3)=O)C=C(C1)C(F)(F)F)(F)F | C33H33F7N4O3
